US05175157
3-[(N-(3-(4-Amino-3,5-dibromo-phenoxy)-propyl)-piperidin-3yl)-methyl]-7,8dimethoxy-1,3,4, 5-tetrahydro-2H-3-benzazepin-2one-hydrochloride
Prepared from 3-[(piperidin-3-yl)-methyl]-7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-one and 3-(4-amino-3,5dibromo-phenoxy)-propyl chloride analogously to Example 1.

reactant | 3-[(piperidin-3-yl)-methyl]-7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-one | N1CC(CCC1)CN1CCC2=C(CC1=O)C=C(C(=C2)OC)OC | C18H26N2O3
reactant | 3-(4-amino-3,5dibromo-phenoxy)-propyl chloride | NC1=C(C=C(OCCCCl)C=C1Br)Br | C9H10Br2ClNO
product | 3-[(N-(3-(4-Amino-3,5-dibromo-phenoxy)-propyl)-piperidin-3yl)-methyl]-7,8dimethoxy-1,3,4, 5-tetrahydro-2H-3-benzazepin-2one-hydrochloride | Cl.NC1=C(C=C(OCCCN2CC(CCC2)CN2CCC3=C(CC2=O)C=C(C(=C3)OC)OC)C=C1Br)Br | InChI=1S/C27H35Br2N3O4.ClH/c1-34-24-11-19-6-9-32(26(33)13-20(19)12-25(24)35-2)17-18-5-3-7-31(16-18)8-4-10-36-21-14-22(28)27(30)23(29)15-21;/h11-12,14-15,18H,3-10,13,16-17,30H2,1-2H3;1H
